US06340749B1
Synthesis of 4,5-dichloroimidazolyl-N,N-Dimethylamino(Methoxy)phosphine (7)
To a stirred solution of 4,5-dichloroimidazole (3.44 g, 25.1 mmol) and triethylamine (14.0 mL, 10.16 g, 100.4 mmol) in THF (30 mL) was added dropwise Chloro(N,N-dimethylamino)methoxyphosphine (3.55 g, 25.1 mmol) in CH2Cl2 (10 mL) at room temperature. The mixture was stirred for 2 h at room temperature. The reaction mixture was filtered to remove the resulting salt, and the solvent was removed under reduced pressure to give the crude product as a yellow oil (2.81 g, 79%). 31P NMR (CDCl3) δ 129.3.

reactant | 4,5-dichloroimidazole | 25.1 mmol, 3.44 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | triethylamine | 100.4 mmol, 14.0 mL, 10.16 g | C(C)N(CC)CC | C6H15N
reactant | Chloro(N,N-dimethylamino)methoxyphosphine | 25.1 mmol, 3.55 g | ClPOCN(C)C | C3H9ClNOP
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4,5-dichloroimidazolyl-N,N-Dimethylamino(Methoxy)phosphine | 2.81 g, 79% | ClC=1N=C(NC1Cl)P(OC)N(C)C | C6H10Cl2N3OP
